US04666915
A mixture of N-(3-trifluoromethylphenyl)guanidine (10 g), diethyl N,N-diethylaminomalonate (11.8 g) and potassium carbonate (13.4 g) in water (100 ml) and ethanol (100 ml) is refluxed with stirring for 7 hours. After cooling, the mixture is acidified to pH 3 with 10% aqueous HCl. The precipitate is collected by filtration, washed with water and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-6-oxo-2-(3-trifluoromethylanilino)-5-pyrimidinecarboxylate (13.4 g). M.p. 229°-231° C.

reactant | N-(3-trifluoromethylphenyl)guanidine | 10 g | FC(C=1C=C(C=CC1)NC(=N)N)(F)F | C8H8F3N3
reactant | diethyl N,N-diethylaminomalonate | 11.8 g | C(C)N(CC)C(C(=O)OCC)C(=O)OCC | C11H21NO4
reactant | potassium carbonate | 13.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-6-oxo-2-(3-trifluoromethylanilino)-5-pyrimidinecarboxylate | 13.4 g | O=C1C(=CN=C(N1)NC1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C14H12F3N3O3
